US06090804
1-[5-(5-Phenyl-1,3,4-oxadiazol-2-yl)-2-thenyl]hexahydro-1H-azepine
687 mg (4.0 mmol) of methylbenzoimidate hydrochloride was added to 7 ml of pyridine solution containing 507 mg (2.0 mmol) of 2-(hexahydro-1H-azepin-1-yl)methylthiophene-5-carboxylic acid hydrazide, and the mixture was heated under reflux for 4 hours. The reaction solution was concentrated, chloroform was added to the resulting residue, followed by washing with water and drying over anhydrous magnesium sulfate. The solvent was evaporated and the resulting residue was purified by a silica gel column chromatography to give 110 mg of the title compound.

reactant | methylbenzoimidate hydrochloride | 4.0 mmol, 687 mg | Cl.COC(C1=CC=CC=C1)=N
reactant | 2-(hexahydro-1H-azepin-1-yl)methylthiophene-5-carboxylic acid hydrazide | 2.0 mmol, 507 mg | N1(CCCCCC1)CC=1SC(=CC1)C(=O)NN | C12H19N3OS
solvent | pyridine | 7 ml | N1=CC=CC=C1 | C5H5N
product | 1-[5-(5-Phenyl-1,3,4-oxadiazol-2-yl)-2-thenyl]hexahydro-1H-azepine | 110 mg | C1(=CC=CC=C1)C1=NN=C(O1)C1=CC=C(S1)CN1CCCCCC1 | C19H21N3OS
